US09428499B2
Step-b: Preparation of 2-methyl-2-(3-nitrophenoxy)propanoic acid
The mixture of ethyl 2-methyl-2-(3-nitrophenoxy)propanoate (3.5 g, 13.82 mmol) and LiOH.H2O (2.320 g, 55.3 mmol) in Tetrahydrofuran (7 ml), MeOH (7 ml) and Water (7 ml) was stirred at room temperature for 4 hr. The reaction mixture was concentrated under vacuum and the residue was neutralised with 1N HCl, solid separated was filtered and treated with pentane to afford the title product (2.68 g).

reactant | ethyl 2-methyl-2-(3-nitrophenoxy)propanoate | 13.82 mmol, 3.5 g | CC(C(=O)OCC)(C)OC1=CC(=CC=C1)[N+](=O)[O-] | C12H15NO5
reactant | LiOH.H2O | 55.3 mmol, 2.320 g | O[Li].O
solvent | Tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | MeOH | 7 ml | CO | CH4O
solvent | Water | 7 ml | O | H2O
product | 2-methyl-2-(3-nitrophenoxy)propanoic acid | 2.68 g | CC(C(=O)O)(C)OC1=CC(=CC=C1)[N+](=O)[O-] | C10H11NO5
